US08859592B2
A solution of methyl 3,4-dimethyl-2-aminobenzoate (10 g) in concentrated hydrochloric acid (20 ml) was cooled to 0° C., treated with solution of tetrafluoroammoniumborate (9.4 g) in water (2 ml), a solution of sodium nitrite (7.7 g) in water (2 ml) dropwise, stirred for 2 h, filtered to get a solid. The solid residue was dissolved in chloroform (50 m), treated with potassium acetate (2 mol equivalents) and catalytic amounts of 18-Crown-6, and stirred for 12 h. The reaction mixture was treated with water (50 ml) and extracted with chloroform (2×50 ml). The combined organic layers were dried over sodium sulfate and concentrated. Chromatographic purification (hexane/ethyl acetate 80:20) gave 4-methyl- 1H-indazole-7-carboxylic acid methyl ester (3.2 g). 1H-NMR (400 MHz, CDCl3): 2.68 (s, 3H), 4.00 (s, 3H), 7.02 (d, 1H), 7.97 (d, 1H), 8.15 (s, 1H). LC-MS (methanol): m/z=191 (M+H).

reactant | methyl 3,4-dimethyl-2-aminobenzoate | 10 g | CC=1C(=C(C(=O)OC)C=CC1C)N | C10H13NO2
reactant | tetrafluoroammoniumborate | 9.4 g | B([O-])([O-])[O-].F[N+](F)(F)F.F[N+](F)(F)F.F[N+](F)(F)F
reactant | sodium nitrite | 7.7 g | N(=O)[O-].[Na+]
reactant | potassium acetate | 2 mol | C(C)(=O)[O-].[K+]
reactant | 18-Crown-6 | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | hydrochloric acid | 20 ml | Cl | ClH
solvent | water | 2 ml | O | H2O
solvent | water | 2 ml | O | H2O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | water | 50 ml | O | H2O
product | 4-methyl- 1H-indazole-7-carboxylic acid methyl ester | 3.2 g | COC(=O)C=1C=CC(=C2C=NNC12)C | C10H10N2O2
